************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: SRAM
* View Name:     schematic
* Netlisted on:  Jun 30 21:54:36 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM BL BLB VDD VSS WL
*.PININFO BL:B BLB:B VDD:B VSS:B WL:B
MM4 BLB WL net2 VSS N W=0.22 L=0.18 m=1
MM2 net2 net1 VSS VSS N W=0.44 L=0.18 m=1
MM0 net1 net2 VSS VSS N W=0.44 L=0.18 m=1
MM3 net1 WL BL VSS N W=0.22 L=0.18 m=1
MM5 net2 net1 VDD VDD P W=0.22 L=0.18 m=1
MM1 net1 net2 VDD VDD P W=0.22 L=0.18 m=1
.ENDS

